US06642389B2
In analogy to the procedure described in example 120 f], [rac]-2-ethoxy-3-(4-hydroxy-2,3-dihydro-benzofuran-7-yl)-propionic acid ethyl ester (example 125 a]) was reacted with 2-(4-tert-butyl-phenyl)-4-chloromethyl-5-methyl-oxazole (example 123 a]) in the presence of potassium carbonate and potassium iodide to yield [rac]-3-{4-[2-(4-tert-butyl-phenyl)-5-methyl-oxazol-4-ylmethoxy]-2,3-dihydro-benzofuran-7-yl}-2-ethoxy-propionic acid ethyl ester, which was further saponified in analogy to the procedure described in example 120 f] to yield [rac]-3-{4-[2-(4-tert-butyl-phenyl)-5-methyl-oxazol-4-ylmethoxy]-2,3-dihydro-benzofuran-7-yl}-2-ethoxy-propionic acid as white solid.

reactant | [rac]-2-ethoxy-3-(4-hydroxy-2,3-dihydro-benzofuran-7-yl)-propionic acid ethyl ester | C(C)OC(C(CC1=CC=C(C=2CCOC21)O)OCC)=O | C15H20O5
reactant | 2-(4-tert-butyl-phenyl)-4-chloromethyl-5-methyl-oxazole | C(C)(C)(C)C1=CC=C(C=C1)C=1OC(=C(N1)CCl)C | C15H18ClNO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
product | [rac]-3-{4-[2-(4-tert-butyl-phenyl)-5-methyl-oxazol-4-ylmethoxy]-2,3-dihydro-benzofuran-7-yl}-2-ethoxy-propionic acid ethyl ester | C(C)OC(C(CC1=CC=C(C=2CCOC21)OCC=2N=C(OC2C)C2=CC=C(C=C2)C(C)(C)C)OCC)=O | C30H37NO6
